US04175203
Step A(2): Preparation of Ethyl 3-(3-Bromo-1-propenyl)benzoate
A mixture of ethyl 3-(1-propenyl)benzoate (14.0 g., 0.074 mole), N-bromosuccinimide (14.9 g., 0.084 mole), benzoyl peroxide (150 mg.), and carbon tetrachloride (75 ml.) is stirred and heated at reflux for 46 hours. The mixture is cooled. Solids are filtered off and the filtrate is washed with water and dried over magnesium sulfate. The solvent is evaporated and the residual oil distilled to yield 10.2 g. (51%) of ethyl (3-(3-bromo-1-propenyl)benzoate, b.p. 129°-131° C. (0.05 mm.).

reactant | ethyl 3-(1-propenyl)benzoate | 0.074 mole, 14.0 g | C(=CC)C=1C=C(C(=O)OCC)C=CC1 | C12H14O2
reactant | N-bromosuccinimide | 0.084 mole, 14.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 150 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 3-(3-bromo-1-propenyl)benzoate | BrCC=CC=1C=C(C(=O)[O-])C=CC1
solvent | carbon tetrachloride | 75 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 3-(3-Bromo-1-propenyl)benzoate | BrCC=CC=1C=C(C(=O)OCC)C=CC1 | C12H13BrO2
